US07846956B2
1.02 g of {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methylidene}malononitrile was dissolved in 50 ml of 1,4-dioxane. Thereto, 0.05 g of copper(I) iodide was added and 15 ml of a 1 M solution of i-propylmagnesium bromide in tetrahydrofuran was then added under ice-cooling. The mixture was stirred for 1 hour under ice-cooling. The reaction mixture was added to 0.1 M hydrochloric acid and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.40 g of {1-[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]-2-methylpropyl}malononitrile.

reactant | {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methylidene}malononitrile | 1.02 g | OC(C)(C)C1=CC(=NO1)C=C(C#N)C#N | C10H9N3O2
reactant | i-propylmagnesium bromide | C(C)(C)[Mg]Br
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.05 g | [Cu]I
product | {1-[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]-2-methylpropyl}malononitrile | 0.40 g | OC(C)(C)C1=CC(=NO1)C(C(C)C)C(C#N)C#N | C13H17N3O2
